US05059689
2,4-Dichloro-6-(2,2,6,6-tetramethyl-4-benzoyloxy-piperidin-1-yl)-1,3,5-triazine.
46.1 g of cyanuric chloride and 136.0 g of 2,2,6,6-tetramethyl-4-benzoyloxypiperidine are reacted in 300 ml of xylene as described in Example 1 and worked up. After recrystallization from isopropanol, 2,4-dichloro-6-(2,2,6,6-tetramethyl-4-benzoyloxy-piperidin-1-yl)-1,3,5-triazine are obtained as colorless crystals having a melting point of 145°.

reactant | cyanuric chloride | 46.1 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,2,6,6-tetramethyl-4-benzoyloxypiperidine | 136.0 g | CC1(NC(CC(C1)OC(C1=CC=CC=C1)=O)(C)C)C | C16H23NO2
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-Dichloro-6-(2,2,6,6-tetramethyl-4-benzoyloxy-piperidin-1-yl)-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)N1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C19H22Cl2N4O2
